US04595535
To a solution of 6.27 g of 5-chloro-3-(o-nitrobenzyl)-1,2,4-triazole in 146 ml of tetrahydrofuran is added to 0° with stirring 146 ml of 20% aqueous solution of titanium trichloride. The mixture is stirred at room temperature overnight basified with concentrated ammonium hydroxide and extracted 3 times with methylene chloride. The combined extracts are dried, evaporated and the residue is crystallized from ether to give 3-(o-aminobenzyl)-5-chloro-1,2,4-triazole, m.p. 162°-165°.

reactant | 5-chloro-3-(o-nitrobenzyl)-1,2,4-triazole | 6.27 g | ClC1=NC(=NN1)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H7ClN4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 146 ml | O1CCCC1 | C4H8O
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-(o-aminobenzyl)-5-chloro-1,2,4-triazole | NC1=C(CC2=NNC(=N2)Cl)C=CC=C1 | C9H9ClN4
